US05622982
d) 1-(5-Chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane-1-ol
A solution of 7.8 g of 2-[2'-(1H-imidazol-1-yl)acetyl]-5-chloropyridine in 40 ml of methanol is charged at 0°, in portions, with 2.0 g of sodium borohydride. The mixture is stirred for one hour at 0°. For working-up the mixture is decomposed by careful addition of 1N hydrochloric acid at 0°, followed by 1N sodium hydroxide to reach a pH of 9. The solvents are evaporated in vacuo. The residue is stirred with water and dichloromethane, the aqueous phase is extracted twice with dichloromethane and the combined organic extracts are washed with brine, dried and evaporated. The compound is obtained as a cream coloured solid; m.p.: >210° (decomp.). Purification is possible by chromatography over silicagel.

reactant | 2-[2'-(1H-imidazol-1-yl)acetyl]-5-chloropyridine | 7.8 g | N1(C=NC=C1)CC(=O)C1=NC=C(C=C1)Cl | C10H8ClN3O
reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 1-(5-Chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane-1-ol | ClC=1C=CC(=NC1)C(CN1C=NC=C1)O | C10H10ClN3O
